US07645755B2
i) 5-Cyano-1H-imidazole-2-carboxylic acid [4-(3,6-dihydro-2H-pyran-4-yl)-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide
To a suspension of 5-cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(4-hydroxy-tetrahydro-pyran-4-yl)-phenyl]-amide (16.0 mg, 38.1 μmol, as prepared in the previous step) in 0.3 mL of toluene was added p-toluenesulfonic acid (14.0 mg, 74.0 mmol) and the mixture heated to 60° C. for 2 h. The solvent was evaporated and the title compound purified by RP-HPLC, eluting with a linear gradient of 40% CH3CN in 0.1% TFA/H2O to 100% CH3CN over 20 min to give 8.0 mg (50%) of a white solid: 1H-NMR (400 MHz, CD3OD) δ 8.23 (d, J=8.6 Hz, 1H), 8.02 (s, 1H), 7.38 (dd, J=8.6, 2.2 Hz, 1H), 7.26 (d, J=2.2 Hz, 1H), 6.20 (m, 1H), 5.78 (m, 1H), 4.32 (m, 2H), 3.94 (t, J=5.5, 5.5 Hz, 2H), 2.53 (m, 2H), 2.34 (m, 2H), 2.10 (m, 2H), 1.62 (t, J=6.3, 6.3 Hz, 2H), 1.12 (s, 6H). Mass spectrum (ESI, m/z) calcd. for C24H26N4O2 403.2 (M+H), found 403.2.

reactant | 5-cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(4-hydroxy-tetrahydro-pyran-4-yl)-phenyl]-amide | CC1(CC=C(CC1)C1=C(C=CC(=C1)C1(CCOCC1)O)NC(=O)C=1NC(=CN1)C#N)C | C24H28N4O3
reactant | p-toluenesulfonic acid | 74.0 mmol, 14.0 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 0.3 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Cyano-1H-imidazole-2-carboxylic acid [4-(3,6-dihydro-2H-pyran-4-yl)-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide | 8.0 mg, 50% | O1CCC(=CC1)C1=CC(=C(C=C1)NC(=O)C=1NC(=CN1)C#N)C1=CCC(CC1)(C)C | C24H26N4O2
